US07700622B2
C. N-(4-Methoxybenzyl) 4-amino-2-methylmercaptopyrimidine-5-carboxyamide
To a solution of 4-amino-2-methylmercaptopyrimidine-5-carboxylic acid (185 mg, 1 mmol) and p-methoxybenzyl amine (164 mg, 1.2 mmol) in N,N-dimethylformamide was added 1-hydroxybenzotriazole (92 mg, 92 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarboiimide hydrochloride (229 mg, 1.2 mmol). The reaction mixture was stirred at room temperature over night. The solvent was removed under reduce pressure. The residue was dissolved in ethyl acetate (30 mL) and washed by water (30 mL) and brine (30 mL), dried over sodium sulfate, and the solvent was ecaporated. The residue was purified by column chromatography (hexanes:ethyl acetate=1:1) to give the desired product as a white powder (245 mg, 81%).

reactant | 4-amino-2-methylmercaptopyrimidine-5-carboxylic acid | 1 mmol, 185 mg | NC1=NC(=NC=C1C(=O)O)SC | C6H7N3O2S
reactant | p-methoxybenzyl amine | 1.2 mmol, 164 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 1-hydroxybenzotriazole | 92 mmol, 92 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-Methoxybenzyl) 4-amino-2-methylmercaptopyrimidine-5-carboxyamide | 245 mg, 81% | COC1=CC=C(CNC(=O)CC=2C(=NC(=NC2)SC)N)C=C1 | C15H18N4O2S
